US05714487
(7S,8aS)-2-(5-Chloropyridin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazin-7-yl benzoate
A solution of 0.595 g (2.35 mmol) of (7R,8aS)-7-hydroxy-2-(5-chloropyridin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine (Preparation 17), 0.430 g (3.52 mmol) of benzoic acid and 0.738 g (2.81 mmol) of triphenylphosphine in 25 mL of dry THF was treated with 0.44 mL (2.8 mmol) of diethyl azodicarboxylate, and the mixture stirred at ambient temperature for 16 h. The solvent was evaporated and the residue purified by flash silica gel chromatography with 10:1 methylene chloride:acetone. A second chromatography of the major fraction with the same system gave 0.63 g (75%) of the title compound. mp (.HCl) 202°-205° C. HRMS calcd for C19H21 ClN3O2 (MH+): 358.1322, found: 358.1320.

reactant | (7R,8aS)-7-hydroxy-2-(5-chloropyridin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | 2.35 mmol, 0.595 g | O[C@@H]1C[C@@H]2N(CCN(C2)C2=NC=C(C=C2)Cl)C1 | C12H16ClN3O
reactant | benzoic acid | 3.52 mmol, 0.430 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | triphenylphosphine | 2.81 mmol, 0.738 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 2.8 mmol, 0.44 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (7S,8aS)-2-(5-Chloropyridin-2-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazin-7-yl benzoate | 0.63 g, 75% | C(C1=CC=CC=C1)(=O)O[C@H]1C[C@@H]2N(CCN(C2)C2=NC=C(C=C2)Cl)C1 | C19H20ClN3O2
